US07897595B2
To a mixture of 5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol (77.0 mg, 281 μmol), K2CO3 (19.0 mg, 141 μmol) and DMF (1.4 ml) was added F2ClCCO2Na (47.0 mg, 310 μmol). The mixture was heated at 90° C. for 2 h. The reaction mixture was parted between sat. aq. NaHCO3 and EtOAc. The organic layer was dried, concentrated in vacuo and purified by means of column chromatography to give 49.0 mg (54%) of 2-(difluoromethoxy)-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. MS (ESI) m/z 325.2. A mixture of 2-(difluoromethoxy)-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (28.0 mg, 86.0 μmol), K2CO3 (30 mg), MeOH (1 ml) and H2O (200 μl) was heated to reflux for 10 min. The reaction mixture was concentrated in vacuo and the resulting residue was purified by column chromatography to yield 7.0 mg (36%) of 2-(difluoromethoxy)-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.46 (d, 1H), 6.66 (d, 1H), 3.09 (m, 2H), 3.40-2.90 (m, 4H), 2.74, (dd, 1H), 1.31 (d, 3H) ppm.

reactant | 5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol | 281 μmol, 77.0 mg | CC1C2=C(CCN(C1)C(C(F)(F)F)=O)N=C(C=C2)O | C12H13F3N2O2
reactant | K2CO3 | 141 μmol, 19.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | F2ClCCO2Na | 310 μmol, 47.0 mg | ClC(F)(F)C(=O)O[Na]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 1.4 ml | CN(C)C=O | C3H7NO
product | 2-(difluoromethoxy)-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 49.0 mg, 54% | FC(OC=1C=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1)F | C13H13F5N2O2
